US04218370
To a solution of 2.32 grams (0.0352 moles) of 85% potassium hydroxide in 10 ml of water, cooled to 15° C. in a 50 ml erlenmeyer flask was added 4.5 grams (0.045 moles) of 90% t-butyl hydroperoxide slowly and with rapid stirring. After the addition was complete, the reaction was stirred for 15 minutes at 15° C. and then 8.32 grams (0.032 moles) of allyl 4-t-butylazo-4-chlorovalerate was added dropwise over a 15 minute period holding the temperature at 15°-20° C. After the was complete the reaction was stirred for 90 minutes at 0°-5° C. A one gram portion of 50% NaOH was then added and the reaction stirred for 15 minutes to remove the excess t-butyl hydroperoxide. Ice water was then added until the potassium chloride dissolved. The mixture was extracted with 25 ml cold pentane, the pentane extract washed with ice cold water, saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure at 10° C. to leave 6.6 grams (66% yield) of crude allyl 4-(t-butylazo)-4-(t-butylperoxy)valerate. The product was stored in a dry ice chest.

reactant | potassium hydroxide | 0.0352 moles, 2.32 grams | [OH-].[K+]
reactant | t-butyl hydroperoxide | 0.045 moles, 4.5 grams | C(C)(C)(C)OO | C4H10O2
reactant | allyl 4-t-butylazo-4-chlorovalerate | 0.032 moles, 8.32 grams | C(C)(C)(C)N=NC(CCC(=O)OCC=C)(C)Cl | C12H21ClN2O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | allyl 4-(t-butylazo)-4-(t-butylperoxy)valerate | 6.6 grams, 66% yield | C(C)(C)(C)N=NC(CCC(=O)OCC=C)(C)OOC(C)(C)C | C16H30N2O4
